Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___
 
Chief Complaint:
Afib with RVR, failure to take home medications
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 This is a ___ male with PMHx of CAD s/p CABG and recent 
NSTEMI (s/p DES to ___-LCx), atrial fibrillation, who presented 
to ___ with afib with RVR. He was found to be in atrial 
fibrillation with rapid ventricular rate the morning of 
admission by his ___. He was sent to ___ and was given 
IV metoprolol. His daughter called his primary care doctor who 
recommended transfer to ___ for further management.  
 Of note, the patient was recently diagnosed with atrial 
fibrillation by his PCP. He was sent for a stress test which 
returned positive. He was then sent to ___ for cath and was 
found to have 90% stenosis in the distal LMCA with an additional 
90% stenosis in the proximal LCx beyond the bifurcation. He had 
a DES placed to LM-Lcx and was discharged on aspiring, Plavix, 
and warfarin. Since discharge, the patient reports that he has 
not been doing well at home. He has been having some foot pain 
and has forgotten several doses of medication. His daughter is 
concerned that he has been having problems with his memory 
recently.  
 ___:  
 wbc 10.5, H/H 13.5/41.1, Plt 457  
 Na 135, K 4.3, Cl 101, HCO3 24, BUN 17, Cr 1.08, Glu 153  
 trop .02  
 INR 1.53  
 In the ED initial vitals were: 97.0 66 90/48 16 99% RA  
 -EKG: atrial flutter with rate @ 60, normal axis  
 -Labs/studies notable for: UA hazy, mod leuks, mod blood, 26 
WBC, few bacteria  
 -CXR: 1. No acute intrathoracic process. 2. Centrilobular 
emphysema.  
 -Patient was given: nothing  
 -Vitals on transfer: 98.2 65 102/48 95% RA  
 On the floor the patient denies any active complaints.  
 ROS:  
 Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
syncope or presyncope. Denies exertional buttock or calf pain.  
 On further review of systems, denies any prior history of 
stroke, deep venous thrombosis, cough, black stools or red 
stools. Denies recent fevers, chills or rigors. Denies any 
dysuria. All of the other review of systems were negative.  

 
Past Medical History:
-MIx3, status-post stent ___ years ago, and CABG and St.
___ ___ years ago.  
-Diabetes Mellitus II, not on medication.  
-s/p Cholecystectomy  
-s/p Colon CA, status-post resection x2 (no radiation)
-Manic depression  
-History of pneumothorax (at age ___ s/p thoracotomy 
-OSA
 
Social History:
___
Family History:
FAMILY HISTORY: Dad had 2 aortas (?) and cerebral aneurysms,
Diabetes, manic depression and colon cancer in dad
 
Physical ___:
ADMISSION PHYSICAL EXAM:
#ERROR!
VS: 97.8 ___ 19 96% RA  
 GENERAL: resting comfortably, NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa.  
 NECK: Supple with JVP of 11 cm.  
 CARDIAC: irregular rhythm,, normal S1, S2. No 
murmurs/rubs/gallops. No thrills, lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM:
#ERROR!
Vitals:  97.8 95/56-116/57 ___ 98% on RA
Tele: A flutter with bradycardia
GENERAL: Elderly male, resting comfortably, NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa.  
NECK: Supple with JVP not elevated.  
CARDIAC: irregular rhythm,, normal S1, S2. No 
murmurs/rubs/gallops. No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
PULSES: Distal pulses palpable and symmetric  

 
Pertinent Results:
ADMISSION LABS:
#ERROR!
___ 06:15AM BLOOD WBC-9.9 RBC-4.02* Hgb-11.8* Hct-36.3* 
MCV-90 MCH-29.4 MCHC-32.5 RDW-13.2 RDWSD-43.8 Plt ___
___ 06:15AM BLOOD ___ PTT-28.2 ___
___ 06:15AM BLOOD Glucose-101* UreaN-19 Creat-0.8 Na-137 
K-4.8 Cl-102 HCO3-23 AnGap-17
___ 06:15AM BLOOD Calcium-8.5 Phos-3.4 Mg-2.2

DISCHARGE LABS:
#ERROR!
___ 07:26AM BLOOD WBC-7.4 RBC-4.41* Hgb-12.7* Hct-40.2 
MCV-91 MCH-28.8 MCHC-31.6* RDW-13.2 RDWSD-44.6 Plt ___
___ 07:26AM BLOOD ___ PTT-30.3 ___
___ 07:26AM BLOOD Glucose-118* UreaN-14 Creat-0.9 Na-136 
K-5.3* Cl-101 HCO3-27 AnGap-13
___ 07:26AM BLOOD Calcium-9.4 Phos-3.7 Mg-2.3

PERTINENT FINDINGS:
#ERROR!

Labs:
------

___ 06:50AM BLOOD %HbA1c-6.8* eAG-148*

Micro:
-------
___ 02:33AM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:33AM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 02:33AM URINE RBC-6* WBC-26* Bacteri-FEW Yeast-NONE 
Epi-0

Studies/Imaging:
------------------
CXR ___: 
There is no consolidation, pleural effusion or pneumothorax. 
Note is made of centrilobular emphysema. Heart size is normal. 
Thoracic aortic stent graft appears unremarkable in position 
when compared to the more recent CTA dated ___. A 
compression deformity involving a lower thoracic vertebral body 
is unchanged. Otherwise no acute osseous abnormalities 
identified.   

IMPRESSION: 
1. No acute intrathoracic process. 
2. Centrilobular emphysema. 

 
Brief Hospital Course:
___ male with PMHx of CAD s/p CABG and recent NSTEMI 
(s/p DES to LM-LCx ___, atrial fibrillation, who initially 
presented to OSH with afib with RVR, transferred to ___ for 
further management. 

# ATRIAL FIBRILLATION/FLUTTER: Recent diagnosis of unclear 
duration, incidentally found on annual physical exam. Was noted 
at OSH to be in afib with RVR and received metoprolol and 
quickly became rate controlled. On arrival to ___, after 
interviewing the patient, it became clear he did not take any of 
his medications for the 1.5 days prior to admission due to 
difficulty ambulating to his pills from foot pain. He was 
started on fractionated home doses of metoprolol and diltiazem. 
He was recorded on telemetry to have an episode of profound 
(into the ___, but asymptomatic, bradycardia. No intervention 
was required but his diltiazem dose was decreased and ultimately 
discontinued. He was transitioned to metoprolol succinate 200mg 
daily with adequate rate control and continued on Plavix 
(previous NSTEMI) and Coumadin with plan for point of care INR 
testing going forward with ___.
 
# CAD: Pt has a history of coronary artery disease s/p CABG and 
was recently found to have an NSTEMI in setting of AF w/ rapid 
ventricular rate. He is s/p DES to LM-LCx on ___. Patient 
reported not taking his Plavix or aspirin due to forgetfulness 
and foot pain. He was restarted on Plavix which he should 
continue for at least one year (started ___. He was also 
given aspirin, beta blocker (as per above) and Atorvastatin 80mg 
daily. Patient should stay on triple therapy for at least one 
month (started ___ after which aspirin can be stopped 
while maintained on Plavix. Should undergo TTE as an outpatient. 
Of note, lisinopril and IMDUR were discontinued due to patient 
confusion with medications and well controlled blood pressure.

# Foot Pain: Patient described foot pain as unilateral over L 
great toe. Stated pain was so great that he could not put on his 
shoe. Appeared very sensitive to palpation, warm and red, 
concerning for gout as opposed to initial concern for diabetic 
neuropathy. No evidence of infection. Was started on colchicine 
empiric therapy without crystal confirmation with significant 
improvement. Did not discharge on allopurinol, patient should be 
likely get crystal diagnosis prior to starting allopurinol 
chronically.

# Diminished ADLS: patient has reported difficulty feeling 
steady on his feet as of late and stated that he was having 
difficulty keeping track of his medications (e.g. missing doses 
of Plavix for his stent). His daughter and PCP were concerned 
about his independence. Patient was assessed by physical therapy 
and deemed stable and independent once gout resolved.  Patient 
was also assessed by occupational therapy who noted with 
cognitive testing, pt is functionally able to perform medication
management and demonstrated good safety awareness but did 
exhibit mild deficits in short term memory. Ultimately, with 
discussion with daughter, patient and PCP, decided patient would 
be ok to go home with ___ monitoring and close follow up with 
PCP.

# DIABETES TYPE II: Moderately well controlled, held home 
metformin, and maintained on Humalog insulin sliding scale.  
Resumed on metformin a time of discharge.  

# HYPERTENSION: clinically stable. Discontinued IMDUR and 
Lisinopril dosing, due to BPs in low 100s, asymptomatic and 
patient had difficulty with medication compliance. 

# URINARY RETENTION: Resolved. Patient was discharged on 
previous admission with  Nitrofurantoin for total of 7 days 
which patient stats he completed. His UA was  frankly positive, 
but patient was asymptomatic. No further treatment for UTI 
provided. Patient was voiding well with tamsulosin. Plan for 
patient to f/u with PCP ___ discharge regarding ongoing 
prostate issues and urinary retention.  

# Manic Depression: Mood stable, affect appropriate. Continued 
on Lithium Carbonate 600 mg PO DAILY.

TRANSITIONAL ISSUES:
#ERROR!
[ ] ___ should recheck INR via fingerstick/point of care testing 
and communicate results to Dr ___ at: ___ 
Location: ___: ___ Phone: ___ ICD 
10: ___ Fax: ___ 
[ ] Patient should be monitored to ensure taking Aspirin, 
Plavix, Coumadin. 
[ ] Discontinued diltiazem secondary to bradycardia, and 
Lisinopril and IMDUR due to hypotension. 
[ ] Episode concerning for gout, no crystal confirmation. 
Holding off allopurinol due to lack of confirmed diagnosis. Next 
flare should obtain athrocentisis. 
[ ] Patient should be considered for geriatrics referral from 
PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
4. Lithium Carbonate 600 mg PO DAILY 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Diltiazem Extended-Release 240 mg PO DAILY 
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
9. Tamsulosin 0.4 mg PO QHS 
10. MetFORMIN (Glucophage) 1000 mg PO DAILY 
11. Warfarin 5 mg PO DAILY16 
12. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Lithium Carbonate 600 mg PO DAILY 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
6. Tamsulosin 0.4 mg PO QHS 
7. MetFORMIN (Glucophage) 1000 mg PO DAILY 
8. Metoprolol Succinate XL 200 mg PO DAILY 
RX *metoprolol succinate 200 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
9. Warfarin 7.5 mg PO DAILY16 
RX *warfarin [Coumadin] 7.5 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
#ERROR!
- Afib w/ RVR
- CAD 
- Gout 

SECONDARY:
#ERROR!
- Hypertension
- Manic Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
failure to take your medications, rapid heart rate, and foot 
pain.

WHAT HAPPENED DURING YOUR HOSPITAL STAY?
#ERROR!
-You were given your normal home medications with good effect. 
You heart rate slowed down appropriately.  Stopped your 
diltiazem and increased your metoprolol to help prevent your 
heart rate from slowing down too much.
-Your foot pain was determined to be from gout and you were 
treated with a medication called Colchicine as well as Tylenol. 
- You were evaluated by physical therapy who felt that you were 
stable to walk on your own.
- You were deemed medically stable and ready to go home with a 
visiting nurse.

WHAT SHOULD YOU DO FOLLOWING DISCHARGE?
#ERROR!
- You should take all of your heart medications as prescribed.
  -- You are now on aspirin. You need to take aspirin everyday. 
If you stop taking aspirin, you risk the stent clotting and 
death. Do not stop taking aspirin until ___. 
  -- You are now on Plavix (also known as clopidogrel). This 
medication helps keep your stent open. Do not stop taking plavix 
unless you are told by your cardiologist. No other doctor can 
tell you to stop taking this medication. Please continue to take 
Plavix with your Coumdain daily going forward. 
  -- We stopped your diltiazem dose to avoid complicated medical 
regimen and stopped your IMDUR and Lisinopril because they 
lowered your blood pressure too much. 
- You should follow up with your PCP and ___ after 
discharge from your rehab.

It was a pleasure taking care of you during your hospital stay. 
If you have any questions about the care you received, please do 
not hesitate to ask.

Sincerely,
Your Inpatient ___ Care Team
 
Followup Instructions:
___